US04219660
Preparation of 2(-ethoxycarbonyl)-5-methyl-6-nitro-4-hexenoic acidethylester
To a suspension of 0.1 Mol of diethyl malonate and 0.25 Mol of sodium hydride in tetrahydrofuran was added a solution of 0.1 Mol 1-bromo-3-methyl-4-nitro-2-butene in tetrahydrofuran and stirred for 3 hours at room temperature. The reaction mixture was worked up via an acid extraction with ether. The excess of diethyl malonate was cautiously removed via distillation and the product purified by column chromatography over silica gel using ether/hexane 1:1 as eluent. A yellow oil was obtained.

reactant | diethyl malonate | 0.1 Mol | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium hydride | 0.25 Mol | [H-].[Na+]
reactant | 1-bromo-3-methyl-4-nitro-2-butene | 0.1 Mol | BrCC=C(C[N+](=O)[O-])C | C5H8BrNO2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2(-ethoxycarbonyl)-5-methyl-6-nitro-4-hexenoic acidethylester | C(C)OC(C(CC=C(C[N+](=O)[O-])C)C(=O)OCC)=O | C12H19NO6
